US06455550B1
1-[4-(Methylthio)butyl]cyclobutane carboxylic acid methyl ester was prepared from 1-(4-bromobutyl)cyclobutane carboxylic acid methyl ester and sodium methylmercaptan using the procedure described in example 172.

reactant | 1-(4-bromobutyl)cyclobutane carboxylic acid methyl ester | COC(=O)C1(CCC1)CCCCBr | C10H17BrO2
reactant | sodium methylmercaptan | CS.[Na]
product | 1-[4-(Methylthio)butyl]cyclobutane carboxylic acid methyl ester | COC(=O)C1(CCC1)CCCCSC | C11H20O2S
